US04789674
4.3 g of 2,5-dihydro-4-hydroxy-3-methoxycarbonyl-2-oxo-1H-pyrrole-1-acetamide are suspended in 50 ml of acetonitrile and 30 ml of water. Heating to 75° initiates the removal of carbon dioxide; the reaction mixture is stirred at this temperature for 12 hours. After cooling, the resulting product is filtered off, washed with water and acetone and dried under reduced pressure. 1,1',5,5'-tetrahydro-4-hydroxy-2,2'-dioxo-[3,4'-bi-2H-pyrrole]-1,1'-diacetic acid diamide is obtained in the form of white crystals having a melting point of 300° (decomposition). The product is identical to that described in Example 1.

reactant | 2,5-dihydro-4-hydroxy-3-methoxycarbonyl-2-oxo-1H-pyrrole-1-acetamide | 4.3 g | OC1=C(C(N(C1)CC(=O)N)=O)C(=O)OC | C8H10N2O5
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | 30 ml | O | H2O
product | 1,1',5,5'-tetrahydro-4-hydroxy-2,2'-dioxo-[3,4'-bi-2H-pyrrole]-1,1'-diacetic acid diamide | OC1=C(C(N(C1)CC(=O)N)=O)C1=CC(N(C1)CC(=O)N)=O | C12H14N4O5
